US06818652B2
A solution of 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid methyl ester (1.1 g, 2.6 mmole) in 14 mL of a 1:1 THF/methanol mixture was treated with a solution of 0.44 g of lithium hydroxide monohydrate in 5 mL of water and stirred at 40° C. for 6 hours. The mixture was diluted with 20 mL of water and the pH was adjusted to 2.0 with 2N HCl solution. The mixture was extracted with three 20 mL portions of ethyl acetate. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by preparative tlc (SiO2, 25% ethyl acetate in hexanes) to yield 0.875 g of 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid as a pale yellow oil. MS (EI): (M++1): 410.

reactant | 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid methyl ester | 2.6 mmole, 1.1 g | COC(C1=CC=C(C=C1)OCC(CCCCC)C1=CC=C2C(CCN(C2=C1)C)(C)C)=O | C27H37NO3
reactant | lithium hydroxide monohydrate | 0.44 g | O.[OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF methanol | 14 mL | C1CCOC1.CO
solvent | water | 5 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-[2-(1,4,4-trimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-heptyloxy]-benzoic acid | 0.875 g | CN1CCC(C2=CC=C(C=C12)C(COC1=CC=C(C(=O)O)C=C1)CCCCC)(C)C | C26H35NO3
